US08247377B2
5-Amino-N-[2-({[(2,6-dibromophenyl)carbonyl]amino}methyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide
To a solution of 2,6-dibromobenzoic acid (28 mg, 0.1 mmol) in anhydrous tetrahydrofuran (1 ml) was added anhydrous dimethylformamide (4 μl) followed by oxalyl chloride (100 μl of a 1 ml solution of 87 μl of oxalyl chloride in THF; 0.1 mmol). The mixture effervesced and was stirred under nitrogen for 45 minutes. A solution of 5-amino-N-[2-(aminomethyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide (25.3 mg, 0.07 mmole) in anhydrous tetrahydrofuran (0.5 ml) and diisopropylethylamine (52 μl, 0.3 mmol) was added. It was then stirred under nitrogen at 21° C. for 3 days. It was blown down, partitioned between dichloromethane (5 ml) and 2M hydrochloric acid (2 ml). The organic layer was blown down and the residue purified on a 5 g SPE silica cartridge. Elution with dichloromethane then cyclohexane:ethyl acetate (10:1), (5:1), (3:1), (2:1) (3 times) and finally (1:1) (3 times). The title product was eluted in the third (2:1) fraction and the first (1:1) fraction. These fractions were combined and evaporated to give the title product (39.6 mg).

reactant | 2,6-dibromobenzoic acid | 0.1 mmol, 28 mg | BrC1=C(C(=O)O)C(=CC=C1)Br | C7H4Br2O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 87 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-amino-N-[2-(aminomethyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 0.07 mmole, 25.3 mg | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CN | C14H15F4N5O2
reactant | diisopropylethylamine | 0.3 mmol, 52 μl | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 0.5 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 4 μl | CN(C=O)C | C3H7NO
product | 5-Amino-N-[2-({[(2,6-dibromophenyl)carbonyl]amino}methyl)-3,3,3-trifluoro-2-hydroxypropyl]-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 39.6 mg | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CNC(=O)C1=C(C=CC=C1Br)Br | C21H17Br2F4N5O3
